US04150129
The starting material is prepared as follows: The mixture of 7.0 g of 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 3.88 g of potassium carbonate, 3.55 g of hydroxylamine hydrochloride, 5 ml of water and 60 ml of methanol is refluxed for 5 hours and then stirred at room temperature overnight. 80 ml of water are added, the precipitate collected and washed with ethanol and diethyl ether, to yield the 3-(2-hydroxyiminopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, melting at 155°-158°.

reactant | 3-acetonyl-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 7.0 g | C(C(=O)C)C=1C(NCCCC1C1=CC(=CC=C1)OC)=O | C16H19NO3
reactant | potassium carbonate | 3.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 3.55 g | Cl.NO
solvent | water | 80 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-(2-hydroxyiminopropyl)-4-(3-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | ON=C(CC=1C(NCCCC1C1=CC(=CC=C1)OC)=O)C | C16H20N2O3
